US08957062B2
Step D: isopropyl 4-[(1R,2S)-2-(2-hydroxyethyl)cyclopropyl)piperidine-1-carboxylate
Isopropyl chloroformate (0.12 μL, 1.0 mmol) was added dropwise to a solution of 2-((1S,2R)-2-(piperidin-4-yl)cyclopropyl)ethanol (170 mg, 1.0 mmol) and cesium carbonate (650 mg, 2.0 mmol) in acetonitrile (5 mL). After total addition, the mixture was stirred for 2 hours at RT. The solution was concentrated under reduced pressure and the residue taken-up in 10 mL DCM. The solution was washed with water, the organics were collected, dried over sodium sulfate, filtered and the filtrate concentrated to dryness under reduced pressure. The residue by flash chromatography (20 g of silica gel, ISCO, eluted with a gradient 0-100% ethyl acetate in Hexane) to afford the title compound (189 mg, 74%). LC/MS 256 (M+H)+.

reactant | Isopropyl chloroformate | 1.0 mmol, 0.12 μL | ClC(=O)OC(C)C | C4H7ClO2
reactant | 2-((1S,2R)-2-(piperidin-4-yl)cyclopropyl)ethanol | 1.0 mmol, 170 mg | N1CCC(CC1)[C@@H]1[C@@H](C1)CCO | C10H19NO
reactant | cesium carbonate | 2.0 mmol, 650 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | isopropyl 4-[(1R,2S)-2-(2-hydroxyethyl)cyclopropyl)piperidine-1-carboxylate | 189 mg, 74% | OCC[C@H]1[C@H](C1)C1CCN(CC1)C(=O)OC(C)C | C14H25NO3
